US04283488
Preparation of 2-Methyl-3-(3-trimethylsilylpropyl)benzothiazolium iodide
2-Methylbenzothiazole (14.9 g, 0.10 moles), 3-chloropropyltrimethylsilane (15.0 g, 0.10 moles) and sodium iodide (15.0 g, 0.10 moles) were all suspended in acetonitrile (250 ml) and with stirring the mixture was heated at reflux for four days. The mixture was filtered while hot to remove sodium chloride, the solid was washed with acetonitrile and the filtrate was concentrated to dryness. The residue was stirred with ether and dried. Yield 916 g (25%) mp 203°-205°.

reactant | 2-Methylbenzothiazole | 0.10 moles, 14.9 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | 3-chloropropyltrimethylsilane | 0.10 moles, 15.0 g | ClCCC[Si](C)(C)C | C6H15ClSi
reactant | sodium iodide | 0.10 moles, 15.0 g | [I-].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-Methyl-3-(3-trimethylsilylpropyl)benzothiazolium iodide | [I-].CC=1SC2=C([N+]1CCC[Si](C)(C)C)C=CC=C2 | InChI=1S/C14H22NSSi.HI/c1-12-15(10-7-11-17(2,3)4)13-8-5-6-9-14(13)16-12;/h5-6,8-9H,7,10-11H2,1-4H3;1H/q+1;/p-1
